US04405635
1,3-Dihydro-4-(4-methoxybenzoyl)-5-methyl-2H-imidazol-2-one
To 19.6g of 1,3-dihydro-4-methyl-2H-imidazol-2-one and 53.2 g of anhydrous aluminum chloride in 150 ml of nitrobenzene is added dropwise 34.2 g of p-methoxybenzoyl chloride and the mixture is poured on 500 ml of 2N-HCl and ice, washed 3 times with ethyl ether, the resulting solid is recrystallized from isopropanol-water to give the title compound. M.P. 257°-258° C. (dec.).

reactant | 1,3-dihydro-4-methyl-2H-imidazol-2-one | 19.6g | CC=1NC(NC1)=O | C4H6N2O
reactant | aluminum chloride | 53.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | p-methoxybenzoyl chloride | 34.2 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | HCl | Cl | ClH
solvent | nitrobenzene | 150 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 1,3-Dihydro-4-(4-methoxybenzoyl)-5-methyl-2H-imidazol-2-one | COC1=CC=C(C(=O)C=2NC(NC2C)=O)C=C1 | C12H12N2O3
